US06630483B2
1. (−)-cis-8,9-Dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine-N-oxide
500 mg of (−)-cis-8,9-dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine are dissolved in 30 ml of dichloromethane, treated with 340 mg of m-chloroperbenzoic acid with ice-cooling and stirred in an ice bath for 3 h and at RT for 1 h. After removing the solvent under reduced pressure and chromatography on silica gel using ethyl acetate/triethylamine in the ratio 7:1, the title compound is obtained by concentrating the product fractions.

reactant | (−)-cis-8,9-dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | 500 mg | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)S(=O)(=O)C | C22H25NO4S
reactant | m-chloroperbenzoic acid | 340 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (−)-cis-8,9-Dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine-N-oxide | COC=1C=C2C(=[N+]([C@H]3CCCC[C@H]3C2=CC1OC)[O-])C1=CC=C(C=C1)S(=O)(=O)C | C22H25NO5S
